US07135480B2
3-Cyano-1-(4-methoxy-benzoyl)-pyrrolo[1,2-a]quinoxaline
1-[2-(4-Methoxy-phenyl)-2-oxo-ethyl]-quinoxalin-1-ium bromide: A mixture of quinoxaline (1.0 g, 7.68 mmol) and 2-bromo-1-(4-methoxy-carbonyl-phenyl) ethanone (2.0 g, 8.73 mmol) was heated at 60° C. for 10 minutes and 5 mL of ethyl acetate was added, continued to stirr for another 10 minutes. The off white precipitate was filtered on a Buchner funnel. The solid was dried in vacuo to yield 228 mg (8%) of the title compound. 1H NMR (DMSO-d6): 9.86 (d, J=2.4 Hz, 1H), 9.62 (d, J=2.4 Hz, 1H), 8.60 (m, 2H), 8.32 (m 2H), 8.14 (d, J=8.7 Hz, 2H), 7.23 (d, J=9.0 Hz, 2H), 7.10 (s, 2H), 3.92 (s, 3H).

reactant | 1-[2-(4-Methoxy-phenyl)-2-oxo-ethyl]-quinoxalin-1-ium bromide | [Br-].COC1=CC=C(C=C1)C(C[N+]1=CC=NC2=CC=CC=C12)=O
reactant | quinoxaline | 7.68 mmol, 1.0 g | N1=CC=NC2=CC=CC=C12 | C8H6N2
reactant | 2-bromo-1-(4-methoxy-carbonyl-phenyl) ethanone | 8.73 mmol, 2.0 g | BrCC(=O)C1C(C=C(C=C1)OC)=C=O | C10H9BrO3
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
product | 3-Cyano-1-(4-methoxy-benzoyl)-pyrrolo[1,2-a]quinoxaline | 228 mg, 8% | C(#N)C=1C=C(N2C1C=NC1=CC=CC=C21)C(C2=CC=C(C=C2)OC)=O | C20H13N3O2
